US04050998
1.0 g. of 3-methoxy-17β-tert.-butoxy-1,3,5(10),9(11)-estratetraene is dissolved in 4 ml. of aniline and 3 ml of ethanol, added to 150 ml. of liquid ammonia, 5 g. of lithium perchlorate and electrolyzed for 2 hours at 1 ampere on a mercury electrode in a cell divided by a porous glass plate. After the mixture has been worked up, the crude product (1.1 g.) is dissolved in ethanol and heated with 3 ml. of concentrated hydrochloric acid. By gently adding water, 0.6 g. of nortestosterone is obtained after cooling which, after recrystallization from isopropyl ether, has a melting point of 108°-110° C.

reactant | 3-methoxy-17β-tert.-butoxy-1,3,5(10),9(11)-estratetraene | COC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC=C3C2C=C1)OC(C)(C)C | C23H32O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ammonia | N | H3N
reactant | lithium perchlorate | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | mercury | [Hg] | Hg
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | nortestosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@H]34 | C18H26O2
